US07423158B2
Into a mixture of 1-[4-(difluoromethoxy)phenyl]-2-phenylethane-1,2-dione (3.7 g, 13.4 mmol), dioxane (180 mL) and EtOH (240 mL) were added 1-methylguanidine hydrochloride (6.6 g, 60.3 mmol), and a solution of Na2CO3 (6.4 g, 60.3 mmol) in H2O (20 mL). The new mixture was stirred at 95° C. for 3 hours. Then, the volatiles were removed under vacuum and the residue was taken in water and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification on silica gel (ISCO) using MeOH/EtOAc (1/20) as the eluting solvent gave 2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-phenyl-3,5-dihydro-4H-imidazol-4-one as a white solid (3.65 g, 94% yield). MS m/e (M+H)+ 332; 1H NMR (400 MHz, DMSO-d6) 2.93 (s, 3H), 6.61 (brs, 2H), 7.1 (d, J=8.54 Hz, 2H), 7.15-7.31 (m, 4H), 7.38 (m, 2H), 7.42 (d, J=8.54 Hz, 2H).

reactant | 1-[4-(difluoromethoxy)phenyl]-2-phenylethane-1,2-dione | 13.4 mmol, 3.7 g | FC(OC1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)=O)F | C15H10F2O3
reactant | dioxane | 180 mL | O1CCOCC1 | C4H8O2
reactant | 1-methylguanidine hydrochloride | 60.3 mmol, 6.6 g | Cl.CNC(=N)N
reactant | Na2CO3 | 60.3 mmol, 6.4 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 20 mL | O | H2O
solvent | EtOH | 240 mL | CCO | C2H6O
product | 2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-phenyl-3,5-dihydro-4H-imidazol-4-one | 3.65 g, 94% yield | NC1=NC(C(N1C)=O)(C1=CC=CC=C1)C1=CC=C(C=C1)OC(F)F | C17H15F2N3O2
